US20010041700A1
To 1N HCl/MeOH (50 mL) at 0° C. was added (S)-2-Amino-3-benzylamino-propanoic acid(0.5 g, 2.57 mmol). Reaction was stirred at room temperature overnight. Volatiles were removed to give the product 2-Amino-3-benzylamino-propanoic acid methyl ester dihydrochloride salt as a white solid (0.7 g, 97.5%). MS: m/z=209 M+1

reactant | (S)-2-Amino-3-benzylamino-propanoic acid | 2.57 mmol, 0.5 g | N[C@H](C(=O)O)CNCC1=CC=CC=C1 | C10H14N2O2
reactant | HCl MeOH | 1N, 50 mL | Cl.CO
product | 2-Amino-3-benzylamino-propanoic acid methyl ester dihydrochloride salt | 0.7 g, 97.5% | Cl.Cl.COC(C(CNCC1=CC=CC=C1)N)=O | InChI=1S/C11H16N2O2.2ClH/c1-15-11(14)10(12)8-13-7-9-5-3-2-4-6-9;;/h2-6,10,13H,7-8,12H2,1H3;2*1H
